US05491144
4,5-Bis(anilino)phthalimide
A suspension of 21.9 g (66.3 mmol) of 4,5-bis(anilino)phthalic anhydride in60 ml of formamide under argon atmosphere is heated at 125°-130° for 5 hours. The reaction mixture is cooled to 70°, and 250 ml of water are slowly added. This mixture is cooled to 0° for 30 minutes, and the reddish crystals are filtered off, washed with water and dried. Recrystallization from DMF/water yields the title compound in the form of orange crystals, m.p. 205°-207° C., FAB-MS: 330 [M+ +H].

reactant | 4,5-bis(anilino)phthalic anhydride | 66.3 mmol, 21.9 g | N(C1=CC=CC=C1)C=1C=C2C(C(=O)OC2=O)=CC1NC1=CC=CC=C1 | C20H14N2O3
reactant | formamide | C(=O)N | CH3NO
solvent | water | 250 ml | O | H2O
product | 4,5-Bis(anilino)phthalimide | N(C1=CC=CC=C1)C=1C=C2C(C(=O)NC2=O)=CC1NC1=CC=CC=C1 | C20H15N3O2
